US09169254B2
NMO (22.0 mg, 0.192 mmol), Molecular Sieves 4A (25.0 mg) and TPAP (0.700 mg, 0.00213 mmol) were added to a solution of 1-(4-{2-[2-(9-hydroxy-nonyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3,5-dimethyl-phenyl)-1-methyl-urea (24.0 mg, 0.0426 mmol) in CH2Cl2 (850 μl) at room temperature. The mixture was stirred at room temperature for one hour and then filtered through celite, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography to give 1-(3,5-dimethyl-4-{(E)-2-[4-oxo-2-(9-oxo-nonyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-1-methyl-urea (17.0 mg, 71%).

reactant | NMO | 0.192 mmol, 22.0 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | 1-(4-{2-[2-(9-hydroxy-nonyl)-4-oxo-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-ethyl}-3,5-dimethyl-phenyl)-1-methyl-urea | 0.0426 mmol, 24.0 mg | OCCCCCCCCCC1=NC2(C(N1)=O)CCN(CC2)S(=O)(=O)CCC2=C(C=C(C=C2C)N(C(=O)N)C)C | C28H45N5O5S
solvent | CH2Cl2 | 850 μl | C(Cl)Cl | CH2Cl2
catalyst | TPAP | 0.00213 mmol, 0.700 mg | CCC[N+](CCC)(CCC)CCC.[O-][Ru](=O)(=O)=O
product | 1-(3,5-dimethyl-4-{(E)-2-[4-oxo-2-(9-oxo-nonyl)-1,3,8-triaza-spiro[4.5]dec-1-ene-8-sulfonyl]-vinyl}-phenyl)-1-methyl-urea | 17.0 mg, 71% | CC=1C=C(C=C(C1\C=C\S(=O)(=O)N1CCC2(C(NC(=N2)CCCCCCCCC=O)=O)CC1)C)N(C(=O)N)C | C28H41N5O5S
